US05891889
Step C: N-t-Butoxycarbonyl-4-(2-methylbenzyl)-isonipecotic acid methyl ester
To a solution of N-t-butoxycarbonyl isonipecotic acid methyl ester (10.1 g 41.8 mmol) in 140 ml of dry THF at -78° C. was added LDA (59 ml of a 1.0M solution in THF, 59 mmol) over 15 min. The resulting orange solution was stirred at -78° C. for 1 hr and then treated dropwise with 2-methylbenzyl bromide (6.80 ml, 50.7 mmol) and then allowed to warm slowly to room temperature over 16 hrs. The reaction was quenched with saturated aqueous NH4Cl, diluted with H2O, and extracted with EtOAc. The combined organic extracts were washed with brine, and concentrated in vacuo to an orange gum. Chromatography (SiO2, eluting with 20 to 30% EtOAc in hexanes) and evaporation of solvent in vacuo, afforded the product as a white solid.

reactant | N-t-butoxycarbonyl isonipecotic acid methyl ester | 41.8 mmol, 10.1 g | COC(C1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H21NO4
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2-methylbenzyl bromide | 50.7 mmol, 6.80 ml | CC1=C(CBr)C=CC=C1 | C8H9Br
solvent | THF | 140 ml | C1CCOC1 | C4H8O
product | N-t-Butoxycarbonyl-4-(2-methylbenzyl)-isonipecotic acid methyl ester | COC(C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)C)=O | C20H29NO4
